US06458772B1
a) Benzyl 4,5-dihydroxy-2-pentenoate
A mixture of DL-glycerinaldehyde (4.5 g, 50 mmole) and (benzyloxycarbonylmethyl)-triphenyl-phosphoniumbromide (24.57 g, 50 mmole) in 100 ml 1,2-epoxybutane was refluxed overnight. The mixture was evaporated under vacuum and the product was isolated by silica gel column chromatography. Yield: 8 g=71%

reactant | glycerinaldehyde | 50 mmole, 4.5 g | C(C(C=O)O)O | C3H6O3
reactant | (benzyloxycarbonylmethyl)-triphenyl-phosphoniumbromide | 50 mmole, 24.57 g | [Br-].C(C1=CC=CC=C1)OC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,2-epoxybutane | 100 ml | O1CC1CC | C4H8O
product | Benzyl 4,5-dihydroxy-2-pentenoate | OC(C=CC(=O)OCC1=CC=CC=C1)CO | C12H14O4
